US07816391B2
3-[4-(Cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid
Methyl 3-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate (175 mg, 0.45), (Intermediate #12) was dissolved in methanol (10 mL), treated with 2M aqueous sodium hydroxide solution (1.125 mL) and stirred at ambient temperature for 18 h. Methanol was removed by evaporation under reduced pressure and the clear solution diluted with water (25 ml). 2M HCl was added to pH4 and the mixture extracted with ethyl acetate (2×25 mL). The combined extracts were washed with water (2×10 mL) and brine (10 mL), dried (MgSO4) and evaporated to give the title product as a white solid. (115 mg, 65%)

reactant | Methyl 3-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoate | 175 mg | C1(CCCCC1)NC(=O)C=1C=NN(C1SCCC)C=1C=C(C(=O)OC)C=CC1 | C21H27N3O3S
reactant | sodium hydroxide | 2M, 1.125 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[4-(Cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]benzoic acid | C1(CCCCC1)NC(=O)C=1C=NN(C1SCCC)C=1C=C(C(=O)O)C=CC1 | C20H25N3O3S
